US08536343B2
Into a solution of 0.75 g of propanol and 1.90 mL of triethylamine in 10 mL of tetrahydrofuran, a solution of 2.50 g of 4-nitrophenyl chloroformate in 15 mL of tetrahydrofuran was dropped under cooling on ice. After stirring at room temperature for 20 min, ethyl acetate and water were added to the reaction mixture. The organic layer was separated, washed with water and a saturated sodium chloride aqueous solution successively, dried over anhydrous magnesium sulfate, followed by solvent removal by evaporation under reduced pressure. To the residue, hexane was added, and insoluble matters were removed by filtration. After removing the solvent by evaporation under reduced pressure, 2.59 g of 4-nitrophenyl propyl carbonate was obtained as a light yellow oily matter.

reactant | propanol | 0.75 g | C(CC)O | C3H8O
reactant | triethylamine | 1.90 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 2.50 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-nitrophenyl propyl carbonate | 2.59 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OCCC)=O | C10H11NO5
